US08097594B2
Step-2: The 2-(3-chloromethyl-[1,2,4]-oxadiazole-5-yl)-pyridine (0.550 g, 2.8 mmol) was dissolved in acetone (20 ml). To the clear solution, sodium iodide (0.843 g, 5.62 mmol) and tetra-n-butyl-ammonium iodide (0.259 g, 0.70 mmol) were added. The reaction mixture was refluxed for 2 hr. It was quenched by addition of water (20 ml) and extracted with ethyl acetate (2×25 ml). The combined organic layer was dried over Na2SO4 and evaporated under vacuum to yield 2-(3-Iodomethyl-[1,2,4]oxadiazole-5-yl)-pyridine in 90% (0.750 g) yield. MS: m/z: 288.1 (M+1).

reactant | 2-(3-chloromethyl-[1,2,4]-oxadiazole-5-yl)-pyridine | 2.8 mmol, 0.550 g | ClCC1=NOC(=N1)C1=NC=CC=C1 | C8H6ClN3O
reactant | sodium iodide | 5.62 mmol, 0.843 g | [I-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | tetra-n-butyl-ammonium iodide | 0.70 mmol, 0.259 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(3-Iodomethyl-[1,2,4]oxadiazole-5-yl)-pyridine | ICC1=NOC(=N1)C1=NC=CC=C1 | C8H6IN3O
